US07173025B1
6-Chloronaphth-2-ylsulphonyl chloride (2.61 g) was added in one portion to a stirred mixture of sodium sulphite heptahydrate (4.71 g), sodium bicarbonate (1.64 g) and water (25 ml) which had been heated to 70° C. The resultant mixture was heated to that temperature for 3 hours and then allowed to cool slowly to ambient temperature. The crystalline precipitate was isolated giving sodium 6-chloronaphth-2-ylsulphinate (2.4 g) which was used without further purification.

reactant | 6-Chloronaphth-2-ylsulphonyl chloride | 2.61 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6Cl2O2S
reactant | sodium sulphite heptahydrate | 4.71 g | O.O.O.O.O.O.O.S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 1.64 g | C([O-])(O)=O.[Na+]
solvent | water | 25 ml | O | H2O
product | sodium 6-chloronaphth-2-ylsulphinate | 2.4 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+] | InChI=1S/C10H7ClO2S.Na/c11-9-3-1-8-6-10(14(12)13)4-2-7(8)5-9;/h1-6H,(H,12,13);/q;+1/p-1
